US05719155
5-Cyano-2-hydroxyacetophenone (13.57 g) was dissolved in toluene (120 ml), and pyrrolidine (6 ml) and 1,3-dimethoxy-2-propanone (15 ml) were added. The mixture was refluxed under heating for 1 hour while removing the generated water. After cooling, the reaction mixture was diluted with ethyl acetate, washed with dilute hydrochloric acid, an aqueous solution of sodium hydrogencarbonate and brine in order, and dried over anhydrous magnesium sulfate. The solvent was distilled away and the residue obtained was purified by silica gel column chromatography (ethyl acetate:hexane=2:8) to give 13.0 g of 6-cyano-3,4-dihydro-2,2-bis(methoxymethyl)-2H-1-benzopyran-4-one.

reactant | 5-Cyano-2-hydroxyacetophenone | 13.57 g | CC(=O)C1=C(C=CC(=C1)C#N)O | C9H7NO2
reactant | pyrrolidine | 6 ml | N1CCCC1 | C4H9N
reactant | 1,3-dimethoxy-2-propanone | 15 ml | COCC(COC)=O | C5H10O3
solvent | toluene | 120 ml | C1(=CC=CC=C1)C | C7H8
product | 6-cyano-3,4-dihydro-2,2-bis(methoxymethyl)-2H-1-benzopyran-4-one | 13.0 g | C(#N)C=1C=CC2=C(C(CC(O2)(COC)COC)=O)C1 | C14H15NO4
